US08871738B2
To a 250 mL RBF were added 4-(3-bromo-4-methoxyphenyl)hepta-1,6-dien-4-ol (4.85 g, 16.32 mmol), triethylsilane (5.21 mL, 32.6 mmol), and CH2Cl2 (50 mL). The flask was flushed with N2. BF3.Et2O (2.275 mL, 17.95 mmol) was added via syringe at −78° C. The resulting reaction mixture was stirred at −78° C. for 1 hr and was then allowed to warm to 0° C. briefly. 50 mL 10% KOH was added at 0° C. and the reaction mixture was extracted with 50 mL EtOAc/Hexane (1:1). The organics were washed with 30 mL brine, dried over sodium sulfate, filtered and concentrated. Crude product was purified by silica gel chromatography, eluted with 10% EtOAc/Hexane to give 2-bromo-4-(hepta-1,6-dien-4-yl)-1-methoxybenzene (3.6 g) as colorless oil. 1H NMR (500 MHz, CDCl3:) δ 7.38 (s, 1H), 7.06 (d, 1H), 6.85 (d, 1H), 5.66 (m, 2H), 4.99 (d, 4H), 3.91 (s, 3H), 2.66 (m, 1H), 2.42 (m, 2H), 2.33 (m, 2H).

reactant | 4-(3-bromo-4-methoxyphenyl)hepta-1,6-dien-4-ol | 16.32 mmol, 4.85 g | BrC=1C=C(C=CC1OC)C(CC=C)(CC=C)O | C14H17BrO2
reactant | triethylsilane | 32.6 mmol, 5.21 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | BF3.Et2O | 17.95 mmol, 2.275 mL | B(F)(F)F.CCOCC
reactant | KOH | 50 mL | [OH-].[K+]
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-bromo-4-(hepta-1,6-dien-4-yl)-1-methoxybenzene | 3.6 g | BrC1=C(C=CC(=C1)C(CC=C)CC=C)OC | C14H17BrO
